US05958942
vii) Synthesis of 1,2-dihydro-3-methyl-1-[3,3-dimethyl-5-(trifluoromethanesulfonamido)pentan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one-hydrochloride
To a solution of 1.03 g (2.46 mmol) of 1,2-dihydro-3-methyl-1-[3,3-dimethyl-5-(trifluoromethanesulfonamido)pentan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one in 30 ml of methanol was added 0.29 ml (3.5 mmol) of conc. HCl. The solvent was distilled off, and the residue was recrystallized (solvent: ethanol/diethylether) to give 0.928 g of the desired compound (82.9%, pale yellow powdery substance), m.p.162.0-165.0° C.

reactant | 1,2-dihydro-3-methyl-1-[3,3-dimethyl-5-(trifluoromethanesulfonamido)pentan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one | 2.46 mmol, 1.03 g | CC=1N=C2N3C1C(N(C3=CC=C2)CCC(CCNS(=O)(=O)C(F)(F)F)(C)C)=O | C17H21F3N4O3S
reactant | HCl | 3.5 mmol, 0.29 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
product | 1,2-dihydro-3-methyl-1-[3,3-dimethyl-5-(trifluoromethanesulfonamido)pentan-1-yl]-1,4,7b-triazacyclopent[cd]inden-2-one-hydrochloride | 0.928 g, 82.9% | Cl.CC=1N=C2N3C1C(N(C3=CC=C2)CCC(CCNS(=O)(=O)C(F)(F)F)(C)C)=O | InChI=1S/C17H21F3N4O3S.ClH/c1-11-14-15(25)23(13-6-4-5-12(22-11)24(13)14)10-8-16(2,3)7-9-21-28(26,27)17(18,19)20;/h4-6,21H,7-10H2,1-3H3;1H
